US03988476
Nitration of 5-phenyl indane-1,3-dione with fuming nitric acid as described in Example 16 (c) gave 2-nitro-5-phenyl indane-1, 3-dione, m.p. (water, hydrochloric acid) 119° C. (Found: C, 65.54; H, 3.39; N, 4.93; C15H9NO4. 1/2 H2O requires: C, 65.21; H, 3.65; N, 5.07%).

reactant | 5-phenyl indane-1,3-dione | C1(=CC=CC=C1)C=1C=C2C(CC(C2=CC1)=O)=O | C15H10O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 2-nitro-5-phenyl indane-1, 3-dione | [N+](=O)([O-])C1C(C2=CC=C(C=C2C1=O)C1=CC=CC=C1)=O | C15H9NO4
